US04827004
A solution of 1.9 g of (E,E)-10-hydroxy-3,7,11-trimethyl-2,6,11-dodecatrienamide in 50 ml of methylene chloride is treated with 19.0 g of manganese dioxide ("precipitated", activated by heating to 110° for 15 minutes) and the resulting suspension is stirred at room temperature for 16 hours. After filtration over Hyflo the filtrate is concentrated and the yellow oil obtained is chromatographed on 100 g of aluminum oxide (neutral, activity III) with hexane-ethyl acetate (50% to 100%). There is obtained (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide as a colourless oil which crystallizes upon standing, m.p. 42°-44°. IR (film): 3428, 3347, 3194, (NH2); 1671 (amide C=O, ketone conj. C=O). MS (CI with NH3): 250 (M+H)+.

reactant | (E,E)-10-hydroxy-3,7,11-trimethyl-2,6,11-dodecatrienamide | 1.9 g | OC(CC/C(=C/CC/C(=C/C(=O)N)/C)/C)C(=C)C | C15H25NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 19.0 g | [O-2].[O-2].[Mn+4]
product | (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide | C\C(=C/C(=O)N)\CC\C=C(\CCC(C(=C)C)=O)/C | C15H23NO2
